US08497368B2
7-Fluoro-quinoline-6-carbaldehyde (Intermediate E)
To a suspension of Pd(PPh3)4 (1.27 g, 1.1 mmol) and sodium formate (13.8 g, 132 mmol, 6 e.q.) in acetonitrile (30 mL) was added a solution of 6-bromo-7-fluoro quinoline (5 g, 22 mmol) in DMSO (30 mL). The reaction mixture was heated at 120° C. under a CO atmosphere (1 MPa) for 4 h, cooled to rt and concentrated under reduced pressure. The residue was partitioned between water (100 mL) and ethyl acetate (150 mL). The organic layer was separated, washed with brine (100 mL), dried over Na2SO4 and concentrated under reduced pressure. The reside was purified by column choromatography, eluting with petroleum:ethyl acetate=10:1˜3:1 to give the title compound as a white solid (400 mg, 10.4%). 1H-NMR (400 MHz, DMSO-d6) δ ppm 8.95 (s, 1H), 8.46 (m, 1H), 8.20 (m, 1H), 7.75 (d, 1H), 7.53 (m, 1H).

reactant | sodium formate | 132 mmol, 13.8 g | C(=O)[O-].[Na+]
reactant | 6-bromo-7-fluoro quinoline | 22 mmol, 5 g | BrC=1C=C2C=CC=NC2=CC1F | C9H5BrFN
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
catalyst | Pd(PPh3)4 | 1.1 mmol, 1.27 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-Fluoro-quinoline-6-carbaldehyde | 400 mg, 10.4% | FC1=C(C=C2C=CC=NC2=C1)C=O | C10H6FNO
